US04529548
(A) (11β,17β)-9-Fluoro-11-hydroxy-17-mercaptoandrosta-1,4-dien-3-one
Into a chilled solution (ice bath) of 3 g of (11β)-9-fluoro-11-hydroxyandrosta-1,4-dien-3,17-dione in 12 ml of dimethylformamide and 15 ml of morpholine, there was introduced a stream of hydrogen sulfide. Once the exothermic reaction had ceased, the ice bath was removed, the hydrogen sulfide stream was reduced to about one bubble every two seconds and continued overnight. The next day the reaction mixture was poured into ice water, the resulting solid filtered off, washed with water, and dried to yield 3 g of crude product. HPLC analysis indicated the presence of 11% starting material and 88% product. The above 3 g were combined with 2 g of crude product that had been obtained from two earlier batches and chromatographed on silica gel. Elution with chloroform-20% ethyl acetate yielded 2 g of the title compound as a white solid. Crystallization from acetonitrile furnished the analytically pure sample (1.5 g), melting point 295°-297° C. Further elution gave 1 g of the starting steroid. Recrystallization of the thiol from acetic acid yielded needles.

reactant | (11β)-9-fluoro-11-hydroxyandrosta-1,4-dien-3,17-dione | 3 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2O)=O)=O)C | C19H23FO3
reactant | hydrogen sulfide | S | H2S
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | morpholine | 15 ml | N1CCOCC1 | C4H9NO
product | (11β,17β)-9-Fluoro-11-hydroxy-17-mercaptoandrosta-1,4-dien-3-one | 2 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC[C@@H]([C@@]1(C)C[C@@H]2O)S)=O)C | C19H25FO2S
